US05068325
2-Amino-6-(3-(2-bromo-phenyl)allyl)-4,5,7,8-tetrahydro- 6H-thiazolo[5,4-d]azepine
Prepared analogously to Example 1 from 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine, potassium carbonate and 2-bromo-cinnamyl bromide in anhydrous dimethylformamide for 2 hours at 20° C. Yield: 42% of theory, Melting point: 103°-106° C. (diisopropylether).

reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-cinnamyl bromide | BrC1=C(C=CCBr)C=CC=C1 | C9H8Br2
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-6-(3-(2-bromo-phenyl)allyl)-4,5,7,8-tetrahydro- 6H-thiazolo[5,4-d]azepine | Yield: 42% | NC=1SC=2CCN(CCC2N1)CC=CC1=C(C=CC=C1)Br | C16H18BrN3S
